US04001426
To a cooled (0°) solution of 14.0 g. (0.105 mol.) of aluminum chloride in 100 ml. of nitrobenzene was added 11.2 g. (0.05 mol.) of 2-p-methoxyphenylbenzofuran followed immediately by 10.0 g. (0.06 mol.) of 3,5-dimethylbenzoyl chloride. The reaction mixture was stirred at 0° for 12 minutes (until the red color began to turn reddish-brown) then poured into water. The aqueous mixture was steam distilled to remove nitrobenzene and the residue was dissolved in methylene chloride. The methylene chloride solution was washed with aqueous sodium carbonate and saturated sodium chloride solution, dried (MgSO4) and concentrated at reduced pressure to give a residue which was purified by column chromatography to give 2-p-methoxyphenyl-3-(3',5'-dimethylbenzoyl)benzofuran which was then crystallized from ethanol.

reactant | aluminum chloride | 0.105 mol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 2-p-methoxyphenylbenzofuran | 0.05 mol | COC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C15H12O2
reactant | 3,5-dimethylbenzoyl chloride | 0.06 mol | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
solvent | water | O | H2O
product | 2-p-methoxyphenyl-3-(3',5'-dimethylbenzoyl)benzofuran | COC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=CC(=C1)C)C)=O)C=CC=C2 | C24H20O3
